US07626020B2
[4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid
Lithium granules (8.2 g) and tetrahydrofuran (670 g) were charged to a reactor under an argon atmosphere and the mixture cooled to −35° C. 4-Chlorotoluene (74.3 g) was added at −35° C. and the mixture was held at this temperature for 6 hours. The resultant solution was added to a suspension of 2-(4-bromophenyl)-1,3,4-oxadiazole (124.4 g) in tetrahydrofuran (800 g) at −65° C. After 30 mins a solution of n-hexyllithium (33% w/w in hexanes) (240 ml) was then added at −65° C. After a further 30 min triisopropylborate (230.8 g) was then added maintaining the reaction mixture at −65° C. The reaction mixture was allowed to warm to −35° C. and drowned out into a solution of acetic acid (91.5 g) in water (688 g). The resultant solid was isolated, washed with THF and water, and dried to yield the title compound (92.2 g, 88%).

reactant | Lithium | [Li] | Li
reactant | 4-Chlorotoluene | 74.3 g | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | 2-(4-bromophenyl)-1,3,4-oxadiazole | 124.4 g | BrC1=CC=C(C=C1)C=1OC=NN1 | C8H5BrN2O
reactant | n-hexyllithium | 240 ml | C(CCCCC)[Li]
reactant | triisopropylborate | 230.8 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 800 g | O1CCCC1 | C4H8O
solvent | water | 688 g | O | H2O
solvent | tetrahydrofuran | 670 g | O1CCCC1 | C4H8O
solvent | acetic acid | 91.5 g | C(C)(=O)O | C2H4O2
product | [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid | 92.2 g, 88% | O1C(=NN=C1)C1=CC=C(C=C1)B(O)O | C8H7BN2O3
